US06828460B2
cis/trans-N-[4-(2,4-Dihydroxyphenyl)cyclohexyl]acetamide
To a round bottomed flask equipped with magnetic stirrer was added cis/trans-N-[4-(2,4-bis{[tert-butyl(dimethyl)silyl]oxy}phenyl)cyclohexyl] acetamide (15 mg, 31 μmol), tetrahydrofuran (3 ml) and tetra-n-butylammonium fluoride (93 μl, 93 μmol, 1.0M solution in tetrahydrofuran). The resulting solution was stirred for 3 hr. Tetra-n-butylammonium fluoride (90 μl, 90 μmol, 1.0M solution in tetrahydrofuran) was added and the solution stirred for a further 64 hr. Saturated aqueous sodium bicarbonate solution (3 ml) was added and the solvents removed in vacuo. The residue was partitioned between ethyl acetate (20 ml) and water (5 ml) and the aqueous layer extracted with ethyl acetate (3×10 ml). The combined organic layers were washed with brine (10 ml), dried over magnesium sulfate, filtered and concentrated in vacuo. Purification via flash column chromatography (SiO2, methanol/dichloromethane, 1:9, v/v) afforded an oily solid (6 mg) which was a mixture of isomers by NMR. Further purification via HPLC afforded the title compound (0.5 mg, 6%) as a mixture of diastereoisomers and a colourless oil. m/z (ES−) 308 (M−1+60{acetate}); δH(CD3OD) 1.41 (1H, m), 1.57 (1H, m), 1.70 (2H, m), 1.83 (1H, m), 1.87 (1H, m), 1.93 (1H, m), 1.96 (1.5H, m), 2.04 (1.5H, m), 2.05 (1H, m), 2.82 (1H, m), 3.72 (0.5H, m), 4.14 (0.5H, m), 6.28 (2H, m), 6.92 (0.5H, dd), 6.97 (0.5H, dd).

reactant | trans-N-[4-(2,4-bis{[tert-butyl(dimethyl)silyl]oxy}phenyl)cyclohexyl] acetamide | 31 μmol, 15 mg | [Si](C)(C)(C(C)(C)C)OC1=C(C=CC(=C1)O[Si](C)(C)C(C)(C)C)[C@@H]1CC[C@H](CC1)NC(C)=O | C26H47NO3Si2
reactant | tetra-n-butylammonium fluoride | 93 μmol, 1.0M, 93 μl | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | Tetra-n-butylammonium fluoride | 90 μmol, 1.0M, 90 μl | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | sodium bicarbonate | 3 ml | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | trans-N-[4-(2,4-Dihydroxyphenyl)cyclohexyl]acetamide | 6 mg | OC1=C(C=CC(=C1)O)[C@@H]1CC[C@H](CC1)NC(C)=O | C14H19NO3
